US05344843
A mixture of 2-[2-(4-bromo-3,5-dichlorophenoxy)ethoxy]naphthalene (3.28 g) in dimethylformamide (10 mL) and cuprous cyanide (0.833 g) was heated under argon at 155° C. for four hours. The cooled mixture was diluted with aqueous 10% sodium cyanide solution (100 mL) and extracted twice with dichloromethane. The organic solutions were washed in turn with aqueous 10% sodium cyanide solution and water, dried (Na2SO4), filtered and evaporated to give 2.2 g of crude 2,6-dichloro-4-[2-(2-naphthalenyloxy)ethoxy]benzonitrile. A portion crystallized from dichloromethanediethyl ether provide pure colorless material, mp 156°-158° C.

reactant | 2-[2-(4-bromo-3,5-dichlorophenoxy)ethoxy]naphthalene | 3.28 g | BrC1=C(C=C(OCCOC2=CC3=CC=CC=C3C=C2)C=C1Cl)Cl | C18H13BrCl2O2
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | sodium cyanide | 100 mL | [C-]#N.[Na+]
product | 2,6-dichloro-4-[2-(2-naphthalenyloxy)ethoxy]benzonitrile | 2.2 g | ClC1=C(C#N)C(=CC(=C1)OCCOC1=CC2=CC=CC=C2C=C1)Cl | C19H13Cl2NO2
